US08017605B2
Step B: 4-(2,4,6-trifluorobenzoyl)-1H-pyrrole-2-carboxylic Acid
To a 120 mL DCM solution of 2,4,6-trifluorobenzoyl chloride (4.3 g, 0.022 mol) was added AlCl3 (8.8 g, 0.066 mol) under N2 at room temperature. After stirring for 15 min, 1H-pyrrole-2-carboxylic acid (2.4 g, 0.022 mol) was added in small portions over a 10 min period. After stirring at room temperature for 1 hr, the reaction mixture was treated with dropwise addition of ice-water (20 mL) and 1N HCl to adjust pH to 1, stirred for another 30 min, extracted with EtOAc (3×30 mL). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated to give the title compound (5.8g, 97% yield). 1H-NMR (500 MHz, CDCl3): δ 12.48 (br.s, 1H), 7.48 (s, 1H), 7.28-7.38 (m, 2H), 6.83 (s, 1H).

reactant | 2,4,6-trifluorobenzoyl chloride | 0.022 mol, 4.3 g | FC1=C(C(=O)Cl)C(=CC(=C1)F)F | C7H2ClF3O
reactant | AlCl3 | 0.066 mol, 8.8 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 1H-pyrrole-2-carboxylic acid | 0.022 mol, 2.4 g | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | HCl | 1N | Cl | ClH
solvent | DCM | 120 mL | C(Cl)Cl | CH2Cl2
product | 4-(2,4,6-trifluorobenzoyl)-1H-pyrrole-2-carboxylic Acid | 5.8g, 97% yield | FC1=C(C(=O)C=2C=C(NC2)C(=O)O)C(=CC(=C1)F)F | C12H6F3NO3
